US07026352B1
(8E,12E)-7-Acetoxy-3,6-bis(1-ethoxyethoxy)-6,10,12-trimethyltricosa-8,12,14-trien-11-olide
A solution of 1.57 M n-BuLi in hexane (0.17 mL) was added dropwise to a solution of diisopropylamine (31 mg, 0.36 mmol) in tetrahydrofuran (1.8 mL) at −78° C., followed by stirring at the same temperature for 20 min. To the resulting solution, a solution of 1,3-benzothiazol-2-ylnonylsulfone (44 mg, 0.14 mmol) in tetrahydrofuran (1 mL) at −78° C., followed by stirring at the same temperature for 30 min. 0.6 mL of the resulting solution (which corresponds to 8.8 mg, 0.027 mmol of the anion of 1,3-benzothiazol-2-ylnonylsulfone) was added to asolution of (8E,12E)-7-acetoxy-3,6-bis(1-ethoxyethoxy)-6,10,12-trimethyl-14-oxotetradeca-8,12-dien-11-olide (6.9 mg, 0.013 mmol) in tetrahydrofuran (0.5 mL) at −78° C. The temperature of the resulting solution was gradually (during one hour 50 min.) raised to room temperature with stirring. A saturated aqueous ammonium chloride solution was added to the reaction mixture and the mixture was further diluted with ethyl acetate. Then, the mixture was washed with brine, dried over anhydrous magnesium sulfate and evaporated. The resulting crude product was purified by silica gel column chromatography (Kanto silica gel 60N, spherical, neutral, 40 to 100 μm, eluate; hexane:ethyl acetate=80:20) to give the title compound (3.2 mg, 38%) as a pale yellow oil.

reactant | n-BuLi | 1.57 M | [Li]CCCC
reactant | diisopropylamine | 0.36 mmol, 31 mg | C(C)(C)NC(C)C | C6H15N
reactant | 1,3-benzothiazol-2-ylnonylsulfone | 0.14 mmol, 44 mg | S1C(=NC2=C1C=CC=C2)S(=O)(=O)CCCCCCCCC | C16H23NO2S2
reactant | (8E,12E)-7-acetoxy-3,6-bis(1-ethoxyethoxy)-6,10,12-trimethyl-14-oxotetradeca-8,12-dien-11-olide | 0.013 mmol, 6.9 mg | C(C)(=O)OC\1C(CCC(CC(=O)OC(C(/C=C1)C)\C(=C\C=O)\C)OC(C)OCC)(C)OC(C)OCC | C27H44O9
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | hexane | 0.17 mL | CCCCCC | C6H14
solvent | tetrahydrofuran | 1.8 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 0.5 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (8E,12E)-7-Acetoxy-3,6-bis(1-ethoxyethoxy)-6,10,12-trimethyltricosa-8,12,14-trien-11-olide | 3.2 mg, 38% | C(C)(=O)OC\1C(CCC(CC(=O)OC(C(/C=C1)C)\C(=C\C=CCCCCCCCC)\C)OC(C)OCC)(C)OC(C)OCC | C36H62O8
